US08278341B2
2-(2,10-difluoro-12-(pyrrolidin-1-yl)-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine
A mixture of 2-(12-bromo-2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine (35.2 mg, 0.07681 mmol), pyrrolidine (19.1 μL, 0.2304 mmol), Pd(OAc)2 (5.2 mg, 0.02304 mmol), BINAP (14.3 mg, 0.02304 mmol) and sodium tert-butoxide (22.1 mg, 0.2304 mmol) in toluene (5 mL) was purged with high-purity Ar for five minutes and sealed with Teflon cap. The reaction tube was heated to 200° C. in a Smith Microwave Reactor for 10 minutes. The solvents were removed via vacuum pump. The residue was subjected to flash chromatography to provide the title compound (5.2 mg, 15%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 11.53 (s, 2H), 7.70 (dd, J=10.0, 2.4 Hz, 2H), 7.47 (dd, J=8.8, 4.8 Hz, 2H), 7.19 (td, J=9.2, 2.4 Hz, 2H), 4.29 (t, J=5.6 Hz, 2H), 3.52-3.45 (m, 4H), 2.72 (t, J=5.6 Hz, 2H), 2.40-2.39 (m, 10H); MS (ESI) m/z 447.2 (M−H)−; MS (ESI) m/z 449.0 (M+H)+

reactant | 2-(12-bromo-2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine | 0.07681 mmol, 35.2 mg | BrC1=C2C(=C(C=3NC4=CC=C(C=C4C13)F)OCCN(C)C)NC=1C=CC(=CC12)F | C22H18BrF2N3O
reactant | pyrrolidine | 0.2304 mmol, 19.1 μL | N1CCCC1 | C4H9N
reactant | BINAP | 0.02304 mmol, 14.3 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.2304 mmol, 22.1 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.02304 mmol, 5.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(2,10-difluoro-12-(pyrrolidin-1-yl)-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine | 5.2 mg, 15% | FC=1C=C2C=3C(=C4C(=C(C3NC2=CC1)OCCN(C)C)NC=1C=CC(=CC14)F)N1CCCC1 | C26H26F2N4O
